US04684396
Methanesulphonyl chloride (16.95 g) was added dropwise to a stirred solution of 3-hydroxymethylhexan-1-ol (8.94 g) in pyridine (39.5 g), maintaining the temperature at less than 5° C. Following the addition, the reaction mixture was stirred at 0° C. for 1.5 hours, then diluted with water and extracted with dichloromethane. The extracts were washed successively with water, dilute hydrochloric acid (X 2), water, aqueous sodium bicarbonate, and water, then dried over magnesium sulphate and concentrated to give 3-methanesulphonyloxymethylhex-1-yl methanesulphonate. (16.13 g, 83%) as a yellow oil.

reactant | Methanesulphonyl chloride | 16.95 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-hydroxymethylhexan-1-ol | 8.94 g | OCC(CCO)CCC | C7H16O2
solvent | pyridine | 39.5 g | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-methanesulphonyloxymethylhex-1-yl methanesulphonate | CS(=O)(=O)OCCC(CCC)COS(=O)(=O)C | C9H20O6S2
